US04474679
(2) Synthesis of methyl-3,5-dioctyloxybenzoate
200 ml of ethyl alcohol and then 2.3 g of purified sodium are introduced into a 500 ml Erlenmeyer flask. A reflux condenser is fitted to the Erlenmeyer flask and the reaction medium is stirred with a magnetized bar. When the sodium ethylate is formed, 8.4 g of methyl-3,5-dihydroxybenzoate is added, accompanied by stirring. As soon as the medium has become homogeneous, 20.26 g of distilled octyl bromide are added dropwise. Heating under refluxing takes place for 20 hours.

reactant | methyl-3,5-dihydroxybenzoate | 8.4 g | COC(C1=CC(=CC(=C1)O)O)=O | C8H8O4
reactant | octyl bromide | 20.26 g | C(CCCCCCC)Br | C8H17Br
product | methyl-3,5-dioctyloxybenzoate | COC(C1=CC(=CC(=C1)OCCCCCCCC)OCCCCCCCC)=O | C24H40O4
